US06060477
7-Dipropylamino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine
In a similar manner to Example 56 reaction of 7-methylsulphonyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.40 g) and dipropylamine (0.74 g) in dichloromethane (10 ml) yielded the title compound, 83 mg, m.p. 123-4° C. (recrystallized from cyclohexane).

reactant | 7-methylsulphonyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.40 g | CS(=O)(=O)C1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O4S
reactant | dipropylamine | 0.74 g | C(CC)NCCC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 7-Dipropylamino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | C(CC)N(C1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC)CCC | C21H27N5O2
